US04588746
Liquid dimethylamine (500 g) is added to 1800 ml of methanol cooled to -35°. A solution of 500 g of methyl acrylate in 850 ml of methanol is then added keeping the temperature between -50° and -60°. The reaction mixture is kept at -50° to -60° for 21/2 hours and then at room temperature overnight. The solvent is removed in vacuo and the residue is distilled under reduced pressure to give methyl 3-dimethylaminopropionate b.p. 60°-70°/16 mm Hg.

reactant | dimethylamine | 500 g | CNC | C2H7N
reactant | methyl acrylate | 500 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 850 ml | CO | CH4O
solvent | methanol | 1800 ml | CO | CH4O
product | methyl 3-dimethylaminopropionate | CN(CCC(=O)OC)C | C6H13NO2
